US06156801
60% Oily sodium hydride (0.22 g, 5.5 mmol) was added to methanol (50 ml) under ice-cooling, and after stirring at room temperature for 30 minutes, 4-[4-(benzyloxy)phenoxy]-3-nitrobenzyl chloride (1.00 g, 2.7 mmol) was added thereto, followed by stirring for 3 hours. The reaction solution was poured into water and extracted with ethyl acetate. After drying, the solvent was evaporated under reduced pressure, and the residue was purified by silica gel column chromatography [eluent; hexane - chloroform (1:1)] to give 1-[4-benzyloxy)phenoxy]-4-(methoxymethyl)-2-nitrobenzene (0.92 g).

reactant | sodium hydride | 5.5 mmol, 0.22 g | [H-].[Na+]
reactant | methanol | 50 ml | CO | CH4O
reactant | 4-[4-(benzyloxy)phenoxy]-3-nitrobenzyl chloride | 2.7 mmol, 1.00 g | C(C1=CC=CC=C1)OC1=CC=C(OC2=C(C=C(CCl)C=C2)[N+](=O)[O-])C=C1 | C20H16ClNO4
solvent | water | O | H2O
product | 4-(methoxymethyl)-2-nitrobenzene | 0.92 g | COCC1=CC(=CC=C1)[N+](=O)[O-] | C8H9NO3
